US06503949B1
3,5-Bis-(trifluoromethyl)aniline (2.0 g, 8.7 mmol) was dissolved in dichloromethane (80 mL) and N,N-diisopropylethylamine (1.6 mL, 9.6 mmol) was added followed by slow addition of phenyl chloroformate (1.1 mL, 8.7 mmol). The resulting mixture was stirred at room temperature for 16 hours. The mixture was successively washed with 1N hydrochloric acid (3×100 mL), water (3×100 mL), a mixture of water and saturated aqueous sodium hydrogen carbonate (1:1, 2×100 mL) and a mixture of water and saturated aqueous sodium chloride (1:1, 3×100 mL), dried (MgSO4) and concentrated in vacuo. The residue was crystallised from heptane containing a little diethyl ether to afford 1.3 g (43%) of (3,5-bis-trifluoromethylphenyl)carbamic acid phenyl ester as a solid.

reactant | 3,5-Bis-(trifluoromethyl)aniline | 8.7 mmol, 2.0 g | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
reactant | N,N-diisopropylethylamine | 9.6 mmol, 1.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenyl chloroformate | 8.7 mmol, 1.1 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | (3,5-bis-trifluoromethylphenyl)carbamic acid phenyl ester | 1.3 g, 43% | C1(=CC=CC=C1)OC(NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C15H9F6NO2
